US07531489B2
To a dry 2 L multi-neck round bottom flask fitted with an air stirrer, nitrogen inlet condenser and an additional funnel, 400 ml of THF, 44 g of NaH, and 21.2 g of dihydroethyl linalool were added and heated to 35-40° C. 170 g of dihydrolinalool g was then added to the reaction mixture dropwise over 2 hours. The mixture was aged for 8 hours. 9 g of HMPA (available from Aldrich Chemical Company) was added and the mixture was stirred. 144 g of CH3I was added dropwise to the reaction mixture, further aged for two hours and then sampled hourly until maximum conversion was reached. The mixture was cooled and 800 ml of 5% HCl solution was added, allowed to settle, and the organic layer was separated. The aqueous layer was extracted with 3×100 ml of toluene and then dried over MgSO4 to provide 3-nonene, 7-methoxy-3,7-dimethyl-.

reactant | NaH | 44 g | [H-].[Na+]
reactant | dihydrolinalool | 170 g | CCC(C)(CCC=C(C)C)O | C10H20O
reactant | CH3I | 144 g | CI | CH3I
reactant | HCl | 800 ml | Cl | ClH
solvent | HMPA | 9 g | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | 3-nonene | CCC=CCCCCC | C9H18
